US05614633
A mixture of 0.42 g of 3,4-epoxy-6-pentafluoroethyl-2,2-bisfluoromethyl-3,4-dihydro-2H-1-benzopyran, 0.21 g of 2-hydroxypyridine, 0.11 g of pyridine and 4 ml of ethanol was refluxed for 3 hours and the solvent was distilled off. The resultant residue was purified using silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) to obtain from the first eluted fraction 0.11 g of oily trans-6-pentafluoroethyl-2,2-bisfluoromethyl-3,4-dihydro-4-(2-pyridyloxy)-2H-1-benzopyran-3-ol represented by the following formula.

reactant | 3,4-epoxy-6-pentafluoroethyl-2,2-bisfluoromethyl-3,4-dihydro-2H-1-benzopyran | 0.42 g | O1C2C(OC3=C(C21)C=C(C=C3)C(C(F)(F)F)(F)F)(CF)CF | C13H9F7O2
reactant | 2-hydroxypyridine | 0.21 g | OC1=NC=CC=C1 | C5H5NO
reactant | pyridine | 0.11 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | trans-6-pentafluoroethyl-2,2-bisfluoromethyl-3,4-dihydro-4-(2-pyridyloxy)-2H-1-benzopyran-3-ol | 0.11 g | FC(C(F)(F)F)(C=1C=CC2=C([C@H]([C@@H](C(O2)(CF)CF)O)OC2=NC=CC=C2)C1)F | C18H14F7NO3
